US06159904
6-(1-Ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide
2.3 Grams (5.9 mmol) of 6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide was dissolved in 15 ml of dichloromethane. Separately, 1.22 g (8.8 mmol) of potassium carbonate was dissolved in 20 ml of water, and these two solutions were mixed. Then, a solution of 1.26 g (8.8 mmol) of n-propanesulfonyl chloride in 5 ml of dichloromethane was added. Further, a small amount (about 50 mg) of benzyltrimethylammonium chloride was added, and the mixture was stirred at room temperature for about 15 hours. The reaction mixture was diluted with dichloromethane and water and separated into two phases, and an organic layer was washed with diluted hydrochloric acid, then with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and 3.02 g of the resultant oil was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate, 2:1 v/v) to give 2.6 g (yield 89%) of the titled compound. Table 25 shows the structural formula of the titled compound, and Table 27 shows the physical property data thereof.

reactant | 6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide | 5.9 mmol | C(C)N1N=CC(=C1O)C(=O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C | C19H22N2O5S
reactant | potassium carbonate | 8.8 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanesulfonyl chloride | 8.8 mmol, 1.26 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | benzyltrimethylammonium chloride | about 50 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 6-(1-Ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide | 2.6 g, yield 89% | C(C)N1N=CC(=C1OS(=O)(=O)CCC)C(=O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C | C22H28N2O7S2
